US08084614B2
To a stirring DMF solution (6 mL) containing 5-bromo-4-chloro-2-hydroxy-N-(2-methoxy-phenyl)-N-methyl-benzamide (300 mg, 0.81 mmol) was added 4-bromo-butyronitrile (0.096 mL, 0.97 mmol) and K2CO3 (223 mg, 1.62 mmol). The mixture was heated at 50° C. for 8 hrs. Additional 0.5 eq. of 4-bromobutyronitrile and 0.5 eq of K2CO3 were added and the mixture was heated for another 8 hrs. The mixture was diluted with dichloromethane, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified via silica gel flash column chromatography to afford 5-bromo-4-chloro-2-(3-cyano-propoxy)-N-(2-methoxy-phenyl)-N-methyl-benzamide (241 mg). MS [M+H]+: 439.1; tR=2.62 min (method 1)

reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | 5-bromo-4-chloro-2-hydroxy-N-(2-methoxy-phenyl)-N-methyl-benzamide | 0.81 mmol, 300 mg | BrC=1C(=CC(=C(C(=O)N(C)C2=C(C=CC=C2)OC)C1)O)Cl | C15H13BrClNO3
reactant | 4-bromo-butyronitrile | 0.97 mmol, 0.096 mL | BrCCCC#N | C4H6BrN
reactant | K2CO3 | 1.62 mmol, 223 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobutyronitrile | 0.5 eq. | BrCCCC#N | C4H6BrN
reactant | K2CO3 | 0.5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-4-chloro-2-(3-cyano-propoxy)-N-(2-methoxy-phenyl)-N-methyl-benzamide | 241 mg | BrC=1C(=CC(=C(C(=O)N(C)C2=C(C=CC=C2)OC)C1)OCCCC#N)Cl | C19H18BrClN2O3
